US04127661
(a) 1-Phenoxy-2-propanol
To phenoxy acetone (1 mole) dissolved in methanol (500 ml), is added BH4K (1 mole) portionwise at 0° C. Stirring is continued at room temperature during 24 hours. The methanol is removed in vacuo over a water-bath, the residue is taken up into water and ether. The organic phase is washed with water to neutral pH, after which the material is dried and the residual oil is distilled after removal of the solvent. B.p. = 139° C./20 mm Hg.

reactant | phenoxy acetone | 1 mole | O(C1=CC=CC=C1)CC(C)=O | C9H10O2
solvent | methanol | 500 ml | CO | CH4O
product | 1-Phenoxy-2-propanol | O(C1=CC=CC=C1)CC(C)O | C9H12O2
